US06458957B1
The synthetic method described in U.S. Pat. No. 4,642,384 involves the preparation of 2,5-bis(2,2,2-trifluoroethoxy)-α,α-dichloroacetophenone as an intermediate by chlorinating the α-unsubstituted 2,5-bis(2,2,2-trifluoroethoxy)acetophenone with chlorine gas at a moderate temperature, such as 50-60° C. The α,α-dichloroacetophenone intermediate is further chlorinated in the presence of a buffering base, such as sodium acetate, at a slightly higher temperature, such as 80-100° C. to yield the α,α,α-trichloroacetophenone. The (α,α,α-trichloroacetophenone is reacted with 2-aminomethylpyridine to yield a benzamide, and the pyridine ring is reduced to yield 2,5-bis(2,2,2-trifluoroethoxy)-N-(2-piperidylmethyl)-benzamide.

reactant | α,α,α-trichloroacetophenone | ClC(C(=O)C1=CC=CC=C1)(Cl)Cl | C8H5Cl3O
reactant | 2-aminomethylpyridine | NCC1=NC=CC=C1 | C6H8N2
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
